datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[C:11]([H:18])([H:19])[H:20],56.1911
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([O:15][O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:16][O:15][C:14]([H:17])([H:18])[H:19],76.48352
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[S:12][H:16])[H:6])([H:4])[H:5].[C:11]([H:13])([H:14])[H:15],91.6296
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],37.405
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13])([H:4])[H:5],25.8153
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[O:10]([H:11])[H:12]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[H:11])([H:4])([H:5])[O:10][H:12],218.823
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][C:9](=[O:10])[H:11]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8][C:9](=[O:10])[H:11],69.2217696
[O:0][H:1].[O:2][H:3]>>[H:1][O:2][H:3].[O:0],-8.07512
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13]([C:14]([S:15][H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([S:15][H:20])[H:19],47.2792
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:24])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]1([C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:24])[H:14])([H:12])[H:13],59.371
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30],70.651
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10](=[C:11]([H:13])[H:14])[H:12],-5.8576
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:23]([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][C:23]([H:24])([H:25])[H:26],22.92832
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17],82.4248
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],61.9232
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15]([O:16][H:18])[H:17]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:15][O:16][H:18],41.84
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]([c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:16])[H:6])([H:4])[H:5].[S:9][c:10]1[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]1[H:21],22.5936
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[S:13]([C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([S:13][H:21])([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22],66.4419
